Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:15].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],-4.55376375023
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-4.86563796398
[C:1]#[C:2][C:3][O:4][H:5].[O:6]=[C:7][H:8]>>[C:1]#[C:2][C:3]([O:4][H:5])[O:6][C:7][H:8],-0.67505450814
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2],5.44980082868
[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2].[O:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],2.89042466
[O:1]=[C:2]=[C:3][C:4][O:5][H:6]>>[C:3]#[C:4][O:5][H:6].[O:1]=[C:2],2.7261045752599995
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6][O:7][C:8][H:9]>>[C:1]#[C:2].[C:3]([H:4])([H:5])=[C:6][O:7][C:8][H:9],2.9063575259
[C:8]([H:9])[H:10].[H:1][C:2]#[C:3][O:4][C:5][O:6][H:7]>>[H:1][C:2]#[C:3][O:4][C:5]([O:6][H:7])=[C:8]([H:9])[H:10],-6.33945925095
[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])=[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-1.65671807197
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:12].[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]=[C:13]([H:14])[H:15],4.80263792964
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],4.03175863235
[H:1][O:2][C@:3]1([H:4])[C:5][C:6]([C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[C:11]([C:6](=[C:5])[C:7]([H:8])([H:9])[H:10])([H:12])[H:13],1.78570871493
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[C:3]#[C:4][H:5].[H:1][C:2]([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],4.99540937865
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:3]([H:4])([H:5])[H:6].[O:1]=[C:2][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],3.59606458176
[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4][C:5]1=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-2.61645821527
[H:1][C:2]=[C:3]([O:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]#[C:3][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[O:4][O:5][H:6],0.28313121035100003
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10][H:11]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]#[C:10][H:11].[H:9],1.90908509412
[C:4][C:5]([H:6])([H:7])[O:8][H:9].[O:1][C:2][C:3]>>[O:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[O:8][H:9],-6.89441640153
[C:4]([H:5])([H:6])=[C:7][C:8]([H:9])([H:10])[H:11].[O:1][C:2][C:3]>>[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11],-1.3727209649
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10](\[H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:9]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-1.92645563024
[H:1][O:2][C:3]1([H:4])[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])=[C:11]1[H:12]>>[H:1][O:2][C:3]([H:4])([C:5]([H:6])=[C:7][H:8])[C:11](=[C:9][H:10])[H:12],4.66174867542
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:10].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],1.7957335559
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:1][O:2],6.438430096
[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.23586946777
[H:1][C:2]#[C:3][O:4][C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[C:3][O:4][C:5][O:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2],9.07198887289
[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:4],4.4218174480900005
[H:1][C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:3]([H:4])([H:5])=[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][C:2],1.97784066647
[C:2]#[C:3][C:4][O:5][C:6]([H:7])([H:8])[O:9][H:10].[H:1]>>[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])([H:8])[O:9][H:10],-4.15340974358
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])[H:6].[O:7]=[C:8]([H:9])[C:10]([H:11])[H:12],2.09468189071
